US08877805B2
Step 1. Synthesis of 3-[5-(4-amidinophenoxycarbonyl)-thiophen-2-yl]-2-methylpropenoic acid tert-butyl ester
5-(2-(tert-Butoxycarbonyl)-1-propenyl)-2-thiophenecarboxylic acid (0.51 g, 1.89 mmol) and 4-hydroxybenzamidine hydrochloride (0.33 g, 1.89 mmol) were dissolved in pyridine (10 mL), WSC hydrochloride (0.54 g, 2.8 mmol) was added, and the mixture was stirred overnight. The mixture was purified by high performance liquid chromatography and freeze-dried to give the title compound (0.63 g).

reactant | 5-(2-(tert-Butoxycarbonyl)-1-propenyl)-2-thiophenecarboxylic acid | 1.89 mmol, 0.51 g | C(C)(C)(C)OC(=O)C(=CC1=CC=C(S1)C(=O)O)C | C13H16O4S
reactant | 4-hydroxybenzamidine hydrochloride | 1.89 mmol, 0.33 g | Cl.OC1=CC=C(C(=N)N)C=C1
reactant | WSC hydrochloride | 2.8 mmol, 0.54 g | CCN=C=NCCCN(C)C.Cl
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-[5-(4-amidinophenoxycarbonyl)-thiophen-2-yl]-2-methylpropenoic acid tert-butyl ester | 0.63 g | C(C)(C)(C)OC(C(=CC=1SC(=CC1)C(=O)OC1=CC=C(C=C1)C(N)=N)C)=O | C20H22N2O4S
